data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,1385,"CC(O)C(C)(C)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1734,"CC(CC[C:1](O)=[OH+:2])C1CCC2C3C(O)CC4CC(O)CCC4(C)C3CCC12C.CC1=CC=C(S(=O)(=O)[O-])C=C1.C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5670,"C[NH+](C)C1=C(Br)C=C[CH:1]=[CH:2]1.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,1015,"O=C(O)O.OCC1C(O)C(O)C(O)[CH:1]([O-:2])[O:3]1.[Na+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2607,"CC(=O)[O:1][H:2].NCC[NH2+]C(C(=O)C1=CC=CC=C1)(C1=CC=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1845,"C[P+:1](C)(C)[S-:2]|(2, 1)"
train,pmechdb_split_0,0,7254,"O=C([O-])C[NH2+:1][H:2].[Cl-].[OH][Ca][OH2+].[OH][Ca][OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8224,"CC(=O)CCC(=O)C1=CC(C2=CC=C(C)N2)=CC(C(=O)CCC(C)(O)[NH2+:1][H:2])=C1.CC(=O)[O-:3].O=C[O-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6220,"C1C[NH:1]CCO1.[Cl][Ti-]([Cl])([Cl])([Cl])[O+:2]=[C:3]1CCCC2=CC(Br)=CC=C21|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9603,"C1CC[NH:1]CC1.N#CC1=CC=C([CH2:2][Cl:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1862,"CC[O+:1](C(O)(CC#N)NC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1553,"CC(=O)[O-:1].CCOC(=O)C=CC1=C(C(OCCCO)[OH+:2][H:3])C(F)=CC=C1.O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7760,"C[As+](C)(C)[CH-:1][CH2:2][NH3+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7873,"CCOC(=O)C(CC(C)=[O:1])[C:2](C)=[OH+:3].CO.O=S(=O)([O-])O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5025,"CI.C[N+:1](C)(C)[CH2:2][C:3](CC1=CC=CC=C1)=[C:4]=[N-:5].O=C=O|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2866,"CC(N[C:1](OCC1C2=CC=CC=C2C2=C1C=CC=C2)([O-:2])[O:3]N1C(=O)CCC1=O)C(=O)NC(CCO)C(=O)[O-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9760,"CC[CH+:1]C.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,3851,"CCNC(C)[O+:1](C)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8080,"CC(C)CC1CC(C2=CC=CC=C2)CC[C:1]1([H:2])[O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C.CC(C)[O-]|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,9997,"CCC([O-])[O:1][CH:2](C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8722,"CCCCCCC1CCC([O+:1](P(C2=CC=CC=C2)(C2=CC=CC=C2)(C2=CC=CC=C2)N(NC(=O)OCC)C(=O)OCC)[H:2])C(=O)O1.O=C(C1=CC=C(CBr)C=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9215,"CC1CC(C)(C)C2OC2C1=[O+:1][Li-:2][NH+](C(C)C)C(C)C.[I-]|((2, 1), 1)"
train,pmechdb_split_0,0,1162,"C=C[CH:1]1C[Br+:2]1.[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5212,"CC[O:1][C:2](C)(C[N+](=O)[O-])[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,498,"C1=CC=NC=C1.CC(=O)O[I+:1]1(OC(C)=O)OC(=O)C2=C1C=CC=C2.CC(=O)[O-].CC(C)(C)OC(=O)C1OC2(CCCC2)OC1(C(=O)OC(C)(C)C)C(C(OCC1=CC=CC=C1)C(C=CC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)[OH:2]|(2, 1)"
train,pmechdb_split_0,0,6063,"CCCC1C(C[CH2:1][O:2]S(=O)(=O)C2=CC=C(C)C=C2)C[CH:3]=[CH:4]1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,476,"CC(C)O.CC(C)[O][Al:1]([O]C(C)C)[O]C1CCC2(O)C(=CCC3C4CCC(=O)C4(C)CCC32)C1.CN1CCC(=[O:2])CC1|(2, 1)"
train,pmechdb_split_0,0,7028,"CC(=O)OC1=C2OC3C(=O)C(C)CC4(OC(C)=O)C5CC(=C2C34CC[N+]5(C)[C:1](=[N-:2])[Br:3])C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3306,"COC1=C2C(=O)C3=C(OC)C(CO[S+](C)[CH2:1][H:2])=CC=C3C(=O)C2=CC=C1.O=C(O)[O-:3].[Br-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6995,"C=CCN(C)[C:1]1([O-:2])CCCC[O:3]1.C=CC[NH2+]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2025,"COC1=CC=CC(CC[CH:1]([H:2])[C:3](CCC2(C)C(=O)CCC2=O)=[O:4])=C1.[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6529,"CCC1=C(C[CH2:1][O:2]S(=O)(=O)C2=CC=C(C)C=C2)C=CC([N+](=O)[O-])=C1.C[S-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,119,"C1=CC=C([CH2:1][Br:2])C=C1.C1CNC2=[N:3]CCCN2C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,260,"CC(=O)[O-:1].CCOC(=O)C1=C(C)[NH+:2]=[C:3](C2=CC=CC=C2)[CH:4]1[H:5].O|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,8361,"CN1C2=CC=CC=C2[C:1]2=[C:2]1C(CC1=CC=C(O)C(O)=C1)NCC2.[H:3][Cl:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2538,"OCCC[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2103,"CC1CCCC(C2=CC=CC=C2)[CH:1]=[C:2]1C.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9296,"CN(C)[CH:1]=[N+:2](C)C.C[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6433,"C1=CC=[N+:1]([H:2])C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CCOC(=O)C12CCC(CC1([NH2+]CC1=CC=CC=C1)[O-:3])C2(C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3177,"C[CH:1]([H:2])[C+:3](OCCO)C1=CC=CC=C1.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,3956,"C=C1CC(C=C(C)Br)OC(CCO[P:1](C2=CC=CC=C2)(C2=CC=CC=C2)(C2=CC=CC=C2)[N:2](NC(=O)OCC)C(=O)OCC)C1.SC1=NN=NN1C1=CC=CC=C1|((1, 2), 2)"
train,pmechdb_split_0,0,4744,"CC[O-:1].C[C:2]([CH:3](C(O)C1=CC=CC=C1)[H:4])=[O:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,2998,"CO[C:1](Cl)=[O:2].C[NH:3]C|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9065,"COC1=CC=C([C+:1](C2=CC=CC=C2)C2=CC=C(OC)C=C2)C=C1.O=C(C(Cl)(Cl)Cl)[O-:2]|(2, 1)"
